US08912186B2
1) 6-(Methoxymethoxy)-2-naphthaldehyde
Bromomethyl-methylether (1.50 mL, 18.3 mmol) was added dropwise to a stirred suspension of 6-hydroxy-2-naphthaldehyde (2.1 g, 12.2 mmol) and sodium hydride (0.73 g, 18.3 mmol) in dimethoxyethane at 0° C. The mixture was stirred for 1 h at room temperature. After the complete addition water was carefully added and it was entracte with ethylacetate (3×), dried over MgSO4 and concentrated in vacuo; yellow solid; yield: 2.64 g (91%);

reactant | Bromomethyl-methylether | 18.3 mmol, 1.50 mL | BrCOC | C2H5BrO
reactant | 6-hydroxy-2-naphthaldehyde | 12.2 mmol, 2.1 g | OC=1C=C2C=CC(=CC2=CC1)C=O | C11H8O2
reactant | sodium hydride | 18.3 mmol, 0.73 g | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 6-(Methoxymethoxy)-2-naphthaldehyde | COCOC=1C=C2C=CC(=CC2=CC1)C=O | C13H12O3
